US05112998
In 10 ml of acetone was dissolved 44.2 mg (0.1 mmole) of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α,2α;6α,7α-diepoxypregn-4-en-3-one, followed by addition of 5 mg (0.02 mmole) of pyridinium p-toluenesulfonate. The mixture was refluxed for 2 hours. The reaction mixture thus obtained was cooled to room temperature and the solvent was distilled off under reduced pressure. The residue was diluted with methylene chloride and this methylene chloride solution was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was purified by silica gel chromatography (eluent: ethyl acetate-hexane=1:5, v/v) to recover 19.6 mg of 1α,2α;6α,7α-diepoxy-3-oxopregn-4-ene-20-carbaldehyde (yield: 55%).

reactant | 6α,7α-diepoxypregn-4-en-3-one | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](CC)[C@]5(CC[C@@H]4[C@]4(CCC(C1=C24)=O)C)C)O3 | C21H28O3
reactant | pyridinium p-toluenesulfonate | 0.02 mmole, 5 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | acetone | 10 ml | CC(=O)C | C3H6O
product | 6α,7α-diepoxy-3-oxopregn-4-ene-20-carbaldehyde | yield: 55% | O1[C@@]23[C@H]([C@H]4[C@@H]5CC[C@H](C(C)C=O)[C@]5(CC[C@@H]4[C@]4(CCC(C1=C24)=O)C)C)O3 | C22H28O4
